US07569577B2
4-[3-chloro-2-fluoroanilino]-6-methoxyquinazolin-7-ol (500 mg, 1.565 mmol) was dissolved in DMA (20 ml). tert-Butyl (4-methanesulfonyloxy)piperidine-1-carboxylate (436.6 mg, 1.565 mmol) and cesium fluoride (236.3 mg, 1.565 mmol) were added, and the mixture was heated to 60° C. with stirring. After 18 hours, tert-butyl 4-methanesulfonyloxypiperidine-1-carboxylate and cesium fluoride were again added in the same quantities to the reaction mixture and heating was continued at 60° C. for a further 18 hours. The solvent was evaporated, and the residue was partitioned between saturated aqueous sodium bicarbonate solution (50 ml) and EtOAc (2×50 ml). The organics were combined, dried over MgSO4 and evaporated. The resulting product was then purified by column chromatography eluting with increasingly polar mixtures of methylene chloride/EtOAc (100/0 to 0/100). The fractions containing the desired product were combined and evaporated under vacuum to give tert-butyl 4-({4-[3-chloro-2-fluoroanilino]-6-methoxyquinazolin-7-yl}oxy)piperidine-1-carboxylate as a colourless foam (757 mg, 96%); 1H NMR Spectrum: (DMSO-d6): 1.52 (s, 9H), 1.60-1.80 (m, 2H), 2.02-2.20 (m, 2H), 3.20-3.45 (m, 2H), 3.75-3.92 (m, 2H), 4.05 (s, 3H), 4.95 (m, 1H), 7.32-7.45 (m, 2H), 7.55-7.70 (m, 2H), 7.92 (s, 1H), 8.50 (s, 1H), 9.73 (s, 1H); Mass Spectrum: (M+H)+ 503.

reactant | 4-[3-chloro-2-fluoroanilino]-6-methoxyquinazolin-7-ol | 1.565 mmol, 500 mg | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1)F | C15H11ClFN3O2
reactant | cesium fluoride | 1.565 mmol, 236.3 mg | [F-].[Cs+]
reactant | tert-butyl 4-methanesulfonyloxypiperidine-1-carboxylate | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
product | tert-butyl 4-({4-[3-chloro-2-fluoroanilino]-6-methoxyquinazolin-7-yl}oxy)piperidine-1-carboxylate | 757 mg, 96% | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C25H28ClFN4O4
